US04863904
To a solution of 1.82 g of N-[2-(1-naphthylmethyl)-6-phenylhexanoyl]-L-histidyl-L-leucinal semicarbazone in 80 ml of methanol were added 29 ml of 1N-hydrochloric acid and 7.6 ml of a 37 wt% formaldehyde solution while ice-cooling under an argon atmosphere. The mixture was stirred for 1.5 hours at room temperature, and then a 5% aqueous sodium bicarbonate solution was added to the reaction mixture. The mixture was extracted with ethyl acetate, and the organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 1.55 g of N-[2-(1-naphthylmethyl)-6-phenylhexanoyl]-L-histidyl-L-leucinal as a white powder.

reactant | N-[2-(1-naphthylmethyl)-6-phenylhexanoyl]-L-histidyl-L-leucinal semicarbazone | 1.82 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N)CCCCC1=CC=CC=C1 | C36H45N7O3
reactant | hydrochloric acid | Cl | ClH
reactant | formaldehyde | C=O | CH2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | N-[2-(1-naphthylmethyl)-6-phenylhexanoyl]-L-histidyl-L-leucinal | 1.55 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=O)CCCCC1=CC=CC=C1 | C35H42N4O3
